US07514448B2
N-(5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-1,3,4-thiadiazol-2-yl)-2-(3-methoxyphenyl)-acetamide
A suspension of 5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-1,3,4-thiadiazol-2-amine (0.050 g, 0.23 mmol), 3-methoxyphenylacetic acid (0.038 g, 0.23 mml), triethylamine (0.1 mL) and BtSO2CH3 (0.055 g, 0.28 mml) in THF (3 mL) and DMF (0.3 mL) was heated in a microwave oven for 20 min. The brown solution was added to water (50 mL) and ethyl acetate (50 mL). Brine (10 ml) was added to separate the layers. The organic phase was separated and washed with water (2×50 mL). The organic layer was concentrated to give a solid which was placed in a small Buchner funnel and washed with methanol (2×5 mL) and ethyl acetate (2×5 mL). The brown solid collected was dried under vacuum to afford the desired product (0.018 g, 21%).

reactant | 5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-1,3,4-thiadiazol-2-amine | 0.23 mmol, 0.050 g | N1C=C(C=2C1=NC=CC2)C2=NN=C(S2)N | C9H7N5S
reactant | 3-methoxyphenylacetic acid | 0.038 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | Brine | 10 ml | [Cl-].[Na+].O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | N-(5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-1,3,4-thiadiazol-2-yl)-2-(3-methoxyphenyl)-acetamide | 0.018 g, 21% | N1C=C(C=2C1=NC=CC2)C2=NN=C(S2)NC(CC2=CC(=CC=C2)OC)=O | C18H15N5O2S
